Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Vancomycin And Derivatives
 
Attending: ___.
 
Chief Complaint:
___ yo male with a 4 day history of of R flank pain. 
 
Major Surgical or Invasive Procedure:
percutaneous nephrostomy

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  ___ h/o Alports s/p 3 renal txp's
c/o R flank pain radiating to R groin x4days. Constant pain, no
relieving or aggravating factors. No nausea vomiting. Normal BM.
No urinary symptoms (increased frequency, dysuria or hematuria)  


R groin hernia for ___ years being followed by a surgeon
 

 
Past Medical History:
PAST MEDICAL HISTORY:  end-stage renal disease secondary to
Alport syndrome; HTN, Hypercholesterolemia; Hodgkin's lymphoma
neck s/p ?mantle Radiotherapy

PAST SURGICAL HISTORY:  Arteriovenous fistulae *2 none
functioning now. 3 renal transplants: 
Living-related renal transplant in ___ 
cadaveric transplant in ___ which functioned until ___, 
Last renal transplant in ___.
 
Social History:
Social:Married with 2 children; Occasional ETOH nonsmoker; no
recreational drugs

 
Physical Exam:
At the time of admision :
He was afebrle, vitals were stable.
Alert and oriented.
Lungs were clear bilateral
Heart: Regular rate and rhythm with no murmurs
Abdomen: Soft nondistended. Tenderness over the flank. 
R sided hernia was present which was reducible

 
Pertinent Results:
___ 03:29PM BLOOD WBC-7.2 RBC-5.00# Hgb-15.3# Hct-44.1# 
MCV-88# MCH-30.6# MCHC-34.7 RDW-15.3 Plt ___
___ 07:35AM BLOOD WBC-9.0 RBC-4.85 Hgb-15.0 Hct-45.0 MCV-93 
MCH-31.0 MCHC-33.5 RDW-15.4 Plt ___
___ 07:26PM BLOOD ___ PTT-23.8 ___
___ 03:29PM BLOOD Glucose-143* UreaN-22* Creat-1.5* Na-140 
K-4.2 Cl-106 HCO3-23 AnGap-15
___ 07:35AM BLOOD UreaN-24* Creat-1.6* Na-138 K-4.6

Notably the creat at admission and discharge was about 1.6
 
Brief Hospital Course:
Was admitted with R flank pain. Had a R inguinal hernia . CT 
scan of his abdomen showed a R hydronephrosis of the graft with 
R hydroureter . Transition point at the inlet of the hernia.

Had  R percutaneous internal-external drain placed from kidney 
to bladder. At the time of discharge his drain was left open 
with plans to be seen in the clinic in a week and capping the 
drain

 
Medications on Admission:
MEDICATIONS ON ADMISSION:  Prednisone 5' Immuran 150' Cardizem
240' Zetia, prilosec, Foasamax wkly

 
Discharge Medications:
1. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Azathioprine 50 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
3. Diltiazem HCl 240 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Cyclosporine 100 mg Capsule Sig: One (1) Capsule PO QHS (once 
a day (at bedtime)).  
7. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every six (6) hours as needed for pain.
Disp:*10 Tablet(s)* Refills:*0*
8. Fosamax
Please resume your previous regimen.
9. Outpatient Lab Work
Please draw CBC and Chem 10 on ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ureteral obstruction possibly secondary to a right sided 
inguinal hernia

 
Discharge Condition:
good

 
Discharge Instructions:
You were admitted with obstruction of your ureter, blocking 
urine from leaving your kidney. You had a tube placed to allow 
urine to drain, and are currently doing well. Please call us or 
return to the ER for any of the following:
   - fever > 101.4
   - increased or new pain or swelling around your transplanted 
kidney
   - chills
   - any other signs or symptoms of concern to you
 
Followup Instructions:
___